US09340546B2
Sodium hydride (492.0 mg, 12.30 mmol) was added to a solution of tert-butyl (3S)-3-hydroxypiperidine-1-carboxylate (2.095 g, 10.41 mmol) in THF (20 mL) and the reaction stirred at 0° C. for 15 minutes. A suspension of 4-chloro-3-nitro-pyridine (1.5 g, 9.461 mmol) in THF (10 mL) was added and the reaction allowed to warm slowly to ambient temperature over 2 hours. The reaction was quenched with water and the mixture was partitioned between EtOAc and brine. The combined organic extract was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion, 80 g column, eluting with 0 to 100% EtOAc/Petroleum Ether) to give tert-butyl (3S)-3-[(3-nitro-4-pyridyl)oxy]piperidine-1-carboxylate as a pale yellow solid (2.65 g, 87% Yield, 93% ee). MS (ES+) 324.1.

reactant | Sodium hydride | 12.30 mmol, 492.0 mg | [H-].[Na+]
reactant | tert-butyl (3S)-3-hydroxypiperidine-1-carboxylate | 10.41 mmol, 2.095 g | O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 4-chloro-3-nitro-pyridine | 9.461 mmol, 1.5 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl (3S)-3-[(3-nitro-4-pyridyl)oxy]piperidine-1-carboxylate | 87% Yield | [N+](=O)([O-])C=1C=NC=CC1O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H21N3O5
